US04177292
A mixture of 0.6 ml of dimethylsulfoxide and 60 mg of sodium hydride in the form of a 50% oil dispersion was heated at 60° C. for 25 minutes and was then cooled to 25° C. after which 205 mg of cis 7-dimethylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol were added thereto. After 15 minutes, 0.4 ml of p-difluorobenzene were added thereto and the mixture was heated at 90° C. for 63/4 hours and was then cooled to 20° C. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried and evaporated to dryness to obtain 350 mg of raw product which was dissolved in 10 ml of N hydrochloric acid. The solution was washed with ether and made alkaline with sodium hydroxide solution. The mixture was extracted with methylene chloride and the organic phase was washed with water, dried and evaporated to dryness to obtain 270 mg of cis N,N-dimethyl-5-[4-fluorophenoxy]-6,7,8,9-tetrahydro-5H-benzocyclohepten-7-amine in the form of an oil.

reactant | dimethylsulfoxide | 0.6 ml | CS(=O)C | C2H6OS
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | cis 7-dimethylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-ol | 205 mg | CN([C@H]1C[C@H](C2=C(CC1)C=CC=C2)O)C | C13H19NO
reactant | p-difluorobenzene | 0.4 ml | FC1=CC=C(C=C1)F | C6H4F2
solvent | hydrochloric acid | Cl | ClH
product | cis N,N-dimethyl-5-[4-fluorophenoxy]-6,7,8,9-tetrahydro-5H-benzocyclohepten-7-amine | 270 mg | CN([C@H]1C[C@H](C2=C(CC1)C=CC=C2)OC2=CC=C(C=C2)F)C | C19H22FNO
